US09422243B2
5-Benzyloxy-3-(4-bromo-phenyl)-7-fluoro-benzo[f][1,4]oxazepine
3-(4-Bromo-phenyl)-7-fluoro-4H-benzo[f][1,4]oxazepin-5-one (7.0 g, 0.021 mol) was dissolved in toluene (100 mL). Benzyl bromide (4.3 g, 0.025 mol) and Ag2CO3 (8.6 g, 0.031 mol) were added and the reaction mixture was heated at 80° C. until disappearance of the starting material. The solution was filtered through a pad of celite and concentrated to dryness. The crude was purified by flash chromatography on silica gel (n-hexane/EtOAc=7:1) to obtain the title compound (5.3 g, 60% yield) as a thick yellow oil.

reactant | 3-(4-Bromo-phenyl)-7-fluoro-4H-benzo[f][1,4]oxazepin-5-one | 0.021 mol, 7.0 g | BrC1=CC=C(C=C1)C1=COC2=C(C(N1)=O)C=C(C=C2)F | C15H9BrFNO2
reactant | Benzyl bromide | 0.025 mol, 4.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Benzyloxy-3-(4-bromo-phenyl)-7-fluoro-benzo[f][1,4]oxazepine | 5.3 g, 60% yield | C(C1=CC=CC=C1)OC1=NC(=COC2=C1C=C(C=C2)F)C2=CC=C(C=C2)Br | C22H15BrFNO2
